US05231101
Pyridine (4 ml) was added to 0.4 g of 8-cyano-11-(4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine to dissolve the latter, followed by the addition of 8 ml of acetic anhydride. At the room temperature, the resulting mixture was stirred for 4 hours. After the completion of the reaction, the reaction mixture was concentrated under reduced pressure. Water was added to the residue, followed by extraction with chloroform. The extract was next dried over anhydrous Na2SO4 and the chloroform was distilled off under reduced pressure. The residue was purified by chromatography on a silica gel column and, from relevant fractions eluted with chloroform:methanol (100:1), 0.3 g of 8-cyano-11-(1-acetyl-4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine was obtained (yield: 66%).

reactant | 8-cyano-11-(4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine | 0.4 g | C(#N)C=1C=CC2=C(CCC=3C(=NC=CC3)C2=C2CCNCC2)C1 | C20H19N3
reactant | acetic anhydride | 8 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | Pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | 8-cyano-11-(1-acetyl-4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine | 0.3 g, yield: 66% | C(#N)C=1C=CC2=C(CCC=3C(=NC=CC3)C2=C2CCN(CC2)C(C)=O)C1 | C22H21N3O
